US06995179B2
1) Synthesis of 5-(3,3-diphenyl-2-propene-1-yl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate:
308 mg (0.85 mmol) of mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate, 348 mg (1.65 mmol) of 3,3-diphenyl-2-propene-1-ol, 260 mg (1.36 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 26 mg (0.21 mmol) of 4-dimethylaminopyridine were stirred together in 10 ml of dichloromethane at room temperature for one hour. Water was added to the reaction liquid. After the extraction with dichloromethane, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.85 mmol, 308 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)[O-])C)C)C(=O)OCCC#N
reactant | 3,3-diphenyl-2-propene-1-ol | 1.65 mmol, 348 mg | C1(=CC=CC=C1)C(=CCO)C1=CC=CC=C1 | C15H14O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.36 mmol, 260 mg | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
catalyst | 4-dimethylaminopyridine | 0.21 mmol, 26 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(3,3-diphenyl-2-propene-1-yl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC=C(C1=CC=CC=C1)C1=CC=CC=C1)C)C)C(=O)OCCC#N | C33H29ClN2O4
